US08633173B2
(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-benzyl)-amine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (470.0 mg, 2.022 mmol) and 2-methanesulfonyl-benzylamine; hydrochloride (500.0 mg, 2.255 mmol) in a manner analogous to Example 2d. Product isolated as a yellow solid (0.45 g, 66%). MP=161-163° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.11 (d, J=7.6 Hz, 1H), 7.92 (d, J=6.6 Hz, 1H), 7.64-7.60 (m, 2H), 7.56-7.51 (m, 1H), 6.88 (t, J=7.5 Hz, 1H), 6.53 (d, J=7.8 Hz, 1H), 5.43 (t, J=5.9 Hz, 1H), 4.98 (d, J=6.1 Hz, 2H), 3.15 (s, 3H). MS=337, 339 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 2.022 mmol, 470.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-methanesulfonyl-benzylamine | CS(=O)(=O)C1=C(CN)C=CC=C1 | C8H11NO2S
reactant | hydrochloride | 2.255 mmol, 500.0 mg | Cl | ClH
product | (2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-benzyl)-amine | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)S(=O)(=O)C)=N1 | C14H13ClN4O2S
